US04460403
2,3-Dicyano-5-chloro-6-methylpyrazine (1.79 g; 0.01 mole), 0.62 g (0.01 mole) of ethanethiol and 0.40 g (0.01 mole) of sodium hydroxide were worked up in the same way as in Example 8. Recrystallization from ethanol afforded 0.91 g (yield 45%) of 2,3-dicyano-5-ethylthio-6-methylpyrazine.

reactant | 2,3-Dicyano-5-chloro-6-methylpyrazine | 0.01 mole, 1.79 g | C(#N)C1=NC(=C(N=C1C#N)Cl)C | C7H3ClN4
reactant | ethanethiol | 0.01 mole, 0.62 g | C(C)S | C2H6S
reactant | sodium hydroxide | 0.01 mole, 0.40 g | [OH-].[Na+]
product | 2,3-dicyano-5-ethylthio-6-methylpyrazine | 0.91 g, yield 45% | C(#N)C1=NC(=C(N=C1C#N)SCC)C | C9H8N4S
